* E:\CMOS project\CMOS-Logic-Gates\basic gates\Schematics\half_adder.asc
* Generated by LTspice 24.1.9 for Windows.
M1 Vdd A N003 N001 PMOS
M2 Vdd B N003 N002 PMOS
M3 N003 N004 S N005 PMOS
M4 N003 N007 S N006 PMOS
M5 S A N016 N014 NMOS
M6 N016 B 0 N018 NMOS
M7 N004 A 0 N011 NMOS
M8 Vdd A N004 N008 PMOS
M9 S N004 N017 N015 NMOS
M10 N017 N007 0 N019 NMOS
M11 N007 B 0 N012 NMOS
M12 Vdd B N007 N009 PMOS
V1 Vdd 0 5
V2 A 0 5
V3 B 0 0
M13 Cout N007 0 N020 NMOS
M14 Cout N004 0 N021 NMOS
M15 Vdd N004 P001 N010 PMOS
M16 P001 N007 Cout N013 PMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\daksh\AppData\Local\LTspice\lib\cmp\standard.mos
.op
.backanno
.end
